US04910306
Trimethylsilyl bromide, 10.24 ml (77.5 mmole), was added to 6 ml (55.7 mmole) of 2,6-difluoroaniline in 70 ml of benzene. There was a slight exotherm and immediate precipitation. Triethylamine, 10.8 ml (77.5 mmole), was added and the mixture stirred at room temperature for 16 hours. The mixture was filtered and the solvent removed from the filtrate in vacuo. The product was purified as described in Example 1 to provide 8.85 g (51.1 mmole, 91.7 percent yield) of 99.3 percent pure N-trimethylsilyl-2,6-difluoroaniline as a colorless liquid, b.p. 89°-91° C. at 18 mm.

reactant | Trimethylsilyl bromide | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-difluoroaniline | 55.7 mmole, 6 ml | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | N-trimethylsilyl-2,6-difluoroaniline | 51.1 mmole, 8.85 g, 91.7 percent yield | C[Si](NC1=C(C=CC=C1F)F)(C)C | C9H13F2NSi
